US08541448B2
Into a 50-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 3-(2-(2-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)ethoxy)ethoxy)propanoic acid (700 mg, 1.99 mmol, 1.00 equiv) in anhydrous DCM (30.0 mL), then oxalyl dichloride (0.7 mL) was added dropwise at room temperature. Two drops of anhydrous DMF were then added. The resulting solution was heated to reflux for 40 min. The solvent was removed under vacuum to yield 750 mg of 3-(2-(2-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)ethoxy)ethoxy)propanoyl chloride as pale yellow oil, which was used directly for the next reaction step without further purification.

reactant | 3-(2-(2-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)ethoxy)ethoxy)propanoic acid | 1.99 mmol, 700 mg, 1.00 equiv | O=C1N(C(C2=CC=CC=C12)=O)CCOCCOCCOCCC(=O)O | C17H21NO7
reactant | oxalyl dichloride | 0.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 30.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | Two drops | CN(C)C=O | C3H7NO
product | 3-(2-(2-(2-(1,3-dioxoisoindolin-2-yl)ethoxy)ethoxy)ethoxy)propanoyl chloride | 750 mg | O=C1N(C(C2=CC=CC=C12)=O)CCOCCOCCOCCC(=O)Cl | C17H20ClNO6
